US05767299
(d) Cesium 3-acetylamino-5-(acetylmethylamino)-2,4,6-triiodobenzoate
A suspension of 3-acetylamino-5-(acetylmethylamino)-2,4,6-triiodobenzoic acid (50.0 g, 79.62 mmol) in water (170 ml) was stirred and heated to 50° C. Cesium carbonate (12.8 g, 39.81 mmol) in water (20 ml) was added dropwise to the suspension until pH 7 was reached. Water was removed under reduced pressure to give a residue which was washed twice with ethanol and dried at 60° C. for 7 days.

reactant | 3-acetylamino-5-(acetylmethylamino)-2,4,6-triiodobenzoic acid | 79.62 mmol, 50.0 g | C(C)(=O)NC=1C(=C(C(=O)O)C(=C(C1I)NCC(C)=O)I)I | C12H11I3N2O4
reactant | Cesium carbonate | 39.81 mmol, 12.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 170 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | Cesium 3-acetylamino-5-(acetylmethylamino)-2,4,6-triiodobenzoate | C(C)(=O)NC=1C(=C(C(=O)[O-])C(=C(C1I)NCC(C)=O)I)I.[Cs+] | InChI=1S/C12H11I3N2O4.Cs/c1-4(18)3-16-10-7(13)6(12(20)21)8(14)11(9(10)15)17-5(2)19;/h16H,3H2,1-2H3,(H,17,19)(H,20,21);/q;+1/p-1
